US04871743
A mixture of 0.50 g of diethyl N-(4-[4-(2,4-diamino-6-hydroxypyrimidin-5-yl)butyl]benzoyl)-L-glutamate and 40 mL of 1N sodium hydroxide is stirred at room temperature for 72 hours. The mixture is neutralized with hydrochloric acid and the solid which forms is collected by filtration, washed with water and dried to yield N-(4-[4-(2,4-diamino-6-hydroxypyrimidin-5-yl)-butyl]benzoyl)-L-glutamic acid, m.p. 169°-171° C.; IR (KBr) vmax 3340, 3200, 2920, 2860, 1600, 1380, 1170, and 755 cm-1 ; 1H NMR (dTFA) delta 7.30 (d, J=8.7 Hz, 2H, Ar), 6.90 (d, J=8.7 Hz, 2H, Ar), 4.56-4.61 (m, 1H), 2.26-2.38 (m, 4H, 2' aliphatic), 1.93-2.14 (m, 4H, 2° aliphatic), 1.25-1.34 (m, 2H, 2° aliphatic), 1.05-1.17 (m, 2H, 2° aliphatic).

reactant | diethyl N-(4-[4-(2,4-diamino-6-hydroxypyrimidin-5-yl)butyl]benzoyl)-L-glutamate | 0.50 g | NC1=NC(=C(C(=N1)N)CCCCC1=CC=C(C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)C=C1)O | C24H33N5O6
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 40 mL | [OH-].[Na+]
product | N-(4-[4-(2,4-diamino-6-hydroxypyrimidin-5-yl)-butyl]benzoyl)-L-glutamic acid | NC1=NC(=C(C(=N1)N)CCCCC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)O | C20H25N5O6
